US03946036
b. 6,11-dihydro-(α-methyl)-11-oxo-dibenzo[b,e]thiepine-2-acetic acid ethyl ester
2.4 G of finely cut sodium are added portionwise to 300 cc of ammonia condensed at -40°, with the addition of 200 mg of iron (III) nitrate. Stirring is effected for 30 minutes at the same temperature and 300 cc of ether are subsequently allowed to flow slowly into the reaction mixture. 31.2 g of 6,11-dihydro-11-oxo-dibenzo[b,e]thiepine-2-acetic acid ethyl ester are subsequently added portionwise. After 15 minutes, the salt formation is complete. 17.0 G of methyl iodide in 100 cc of ether are added dropwise at -40°. After a further 15 minutes, the reaction is complete. The ammonia is removed by evaporation and successively replaced by 300 cc of ether. The organic phase is finally shaken with 50 g of ammonium chloride dissolved in water and is washed with water until neutral. The solution which has been purified with charcoal and dried over sodium sulphate, is concentrated at reduced pressure and pentane is added thereto, whereby 6,11-dihydro-(α-methyl)- 11-oxo-dibenzo[b,e]thiepine-2-acetic acid ethyl ester crystallies. M.P. 91°-93°.

reactant | sodium | [Na] | Na
reactant | ammonia | 300 cc | N | H3N
reactant | 6,11-dihydro-11-oxo-dibenzo[b,e]thiepine-2-acetic acid ethyl ester | 31.2 g | C(C)OC(CC1=CC2=C(SCC3=C(C2=O)C=CC=C3)C=C1)=O | C18H16O3S
reactant | methyl iodide | CI | CH3I
solvent | ether | 100 cc | CCOCC | C4H10O
catalyst | iron (III) nitrate | 200 mg | [N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | ether | 300 cc | CCOCC | C4H10O
product | 6,11-dihydro-(α-methyl)-11-oxo-dibenzo[b,e]thiepine-2-acetic acid ethyl ester | C(C)OC(C(C1=CC2=C(SCC3=C(C2=O)C=CC=C3)C=C1)C)=O | C19H18O3S
